US08748370B2
(2S)-1-(N-benzyloxycarbonyl-L-phenylalanylamino-2-(tert-butoxycarbonylamino)-3-methylbutane
The (2S)-1-amino-2-tert-butyloxycarbonylamino-3-methylbutane hydrochloride was obtained from tert-butyloxycarbonyl-L-valinol in accordance with the literature procedures (Mattingly, P. G., Synthesis, 1990, 1990, 366-368. Desired Boc-protected alcohol was obtained from Boc-L-valine, in accordance with the literature procedure (Juszczyk, P. et al., Letters In Peptide Science. 2003, 10, 79-82). The solution of (2S)-1-amino-2-tert-butyloxycarbonylamino-3-methylbutane hydrochloride (0.50 g, 2.096 mmol), Z-L-phenylalanine (0.659 g, 2.20 mmol), triethylamine (611 μl, 4.4 mmol) and HOBt (0.297 g. 2.20 mmol) in 10 ml of DMF was cooled on ice bath and DCC (0.498 g, 2.42 mmol) was added in small portions, during 0.5 h. The stirring was continued during 1 hour, next the reaction mixture was left in room temperature overnight. The precipitated DCU was filtered off, washed with DMF (2×3 ml) and the combined filtrates were evaporated under reduced pressure. The solid residue was dissolved in ethyl acetate (200 ml) and the solution was washed with 1 M hydrochloric acid (3×70 ml),

reactant | (2S)-1-amino-2-tert-butyloxycarbonylamino-3-methylbutane hydrochloride | 2.096 mmol, 0.50 g | Cl.NC[C@H](C(C)C)NC(=O)OC(C)(C)C
reactant | Z-L-phenylalanine | 2.20 mmol, 0.659 g | C1=CC=C(C=C1)C[C@@H](C(=O)O)NC(=O)OCC2=CC=CC=C2 | C17H17NO4
reactant | triethylamine | 4.4 mmol, 611 μl | C(C)N(CC)CC | C6H15N
reactant | HOBt | 2.20 mmol, 0.297 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 2.42 mmol, 0.498 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | N-benzyloxycarbonyl-L-phenylalanylamino-2-(tert-butoxycarbonylamino)-3-methylbutane | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(C(C)C)NC(=O)OC(C)(C)C | C27H37N3O5
